US05541324
N-tert-Butyl-6-chloro-2-nitroaniline (XXVIII)
A mixture of 2,3-dichloronitrobenzene (92.5 g), tert-butylamine (138 ml) and ethanol (50 ml) is heated in a bomb at 150° for 3 days. Dilution with water, extraction with ethylacetate several times, drying with sodium sulfate, and concentration gives the title compound, IR (neat) 2970, 1532, 1484, 1447, 1366, 1348, 1192 and 755 cm-1 ; NMR (CDCl3) 7.73, 7.61, 7.07, 4.77 and 1.22 δ; MS (m/z) 172, 154, 142, 126, 114, 99 and 90.

reactant | 2,3-dichloronitrobenzene | 92.5 g | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | tert-butylamine | 138 ml | C(C)(C)(C)N | C4H11N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-tert-Butyl-6-chloro-2-nitroaniline | C(C)(C)(C)NC1=C(C=CC=C1Cl)[N+](=O)[O-] | C10H13ClN2O2
